US07132456B2
2′-(2-Phenoxy-ethylsulfanylmethyl)-biphenyl-4-carboxylic acid (4-dimethylamino-butyl)-amide was synthesized as described for 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-3-carboxylic acid (3-dimethylamino-propyl)-amide. 2′-(2-Phenoxy-ethylsulfanylmethyl)-biphenyl-4-carboxylic acid (0.80 g, 2.19 mmol, 1 eq.) in anhydrous THF was treated with 1,1-carbonyldiimidazole (0.36g, 2.23 mmol, 1.02 eq.) followed by 4-dimethylaminobutylamine (0.31 g, 2.63 mmol, 1.2 eq.) as described. When complete, the reaction was worked up leaving a yellow oil that later crystallized. The solid was purified via silica gel flash chromatography using 5% 2M NH3 in methanol in chloroform as the mobile phase. Fractions containing the product were pooled and the solvent removed in vacuo leaving 2′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-4-carboxylic acid (4-dimethylamino-butyl)-amide (0.63 g, 62% yield) as a white solid.

reactant | 4′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-3-carboxylic acid (3-dimethylamino-propyl)-amide | CN(CCCNC(=O)C=1C=C(C=CC1)C1=CC=C(C=C1)CSCCOC1=CC=CC=C1)C | C27H32N2O2S
reactant | 2′-(2-Phenoxy-ethylsulfanylmethyl)-biphenyl-4-carboxylic acid | 2.19 mmol, 0.80 g, 1 eq. | O(C1=CC=CC=C1)CCSCC1=C(C=CC=C1)C1=CC=C(C=C1)C(=O)O | C22H20O3S
reactant | 4-dimethylaminobutylamine | 2.63 mmol, 0.31 g, 1.2 eq. | CN(CCCCN)C | C6H16N2
solvent | THF | C1CCOC1 | C4H8O
product | 2′-(2-phenoxy-ethylsulfanylmethyl)-biphenyl-4-carboxylic acid (4-dimethylamino-butyl)-amide | 0.63 g, 62% yield | CN(CCCCNC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)CSCCOC1=CC=CC=C1)C | C28H34N2O2S
